US06329370B1
3-(6-Methoxy-4-thiazol-2-yl-phthalazin-1-yl)-propionic acid (Compound 73)
Operating analogously to what described in example 118 starting from 3-(6-methoxy-4-thiazol-2-yl-phthalazin-1-yl)-propionic acid ethyl ester (1.05 g, 3.06 mmoles), prepared as described in example 122, CH3OH (25 ml) and 10% NaOH (2.5 ml, 6.25 mmoles), 0.8 g of the title compound were obtained (yield: 82.9%). m.p.: 228-229° C.

reactant | 3-(6-methoxy-4-thiazol-2-yl-phthalazin-1-yl)-propionic acid ethyl ester | 3.06 mmoles, 1.05 g | C(C)OC(CCC1=NN=C(C2=CC(=CC=C12)OC)C=1SC=CN1)=O | C17H17N3O3S
reactant | NaOH | 6.25 mmoles, 2.5 ml | [OH-].[Na+]
solvent | CH3OH | 25 ml | CO | CH4O
product | 3-(6-Methoxy-4-thiazol-2-yl-phthalazin-1-yl)-propionic acid | 0.8 g, yield: 82.9% | COC=1C=C2C(=NN=C(C2=CC1)CCC(=O)O)C=1SC=CN1 | C15H13N3O3S
